US04771045
To a solution of 2.0 g of (3S,4S)-4-azido-3-tritylamino-2-azetidinone in 40 ml of toluene is added 1.33 g of ethyl propionate, and the mixture is refluxed for one hour and then cooled. The resulting crystalline is collected by filtration and dried to give 1.3 g of (3S,4S)-4-[4-(ethoxycarbonyl)-1,2,3-triazol-1-yl]-3-tritylamino-2-azetidinone.

reactant | (3S,4S)-4-azido-3-tritylamino-2-azetidinone | 2.0 g | N(=[N+]=[N-])[C@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H19N5O
reactant | ethyl propionate | 1.33 g | C(CC)(=O)OCC | C5H10O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | (3S,4S)-4-[4-(ethoxycarbonyl)-1,2,3-triazol-1-yl]-3-tritylamino-2-azetidinone | 1.3 g | C(C)OC(=O)C=1N=NN(C1)[C@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H25N5O3
